US07750002B2
Amine preparation: A mixture of 4-methanesulfonyloxy-piperidine-1-carboxylic acid tert-butyl ester (2.82 g) and potassium thioacetate (2.31 g) was heated to 60° C. in DMF (10 mL). After 4 h, the reaction mixture was diluted with water, extracted with ethyl acetate, dried (MgSO4), filtered and concentrated in vacuo and then purified by flash chromatography to give 4-acetylsulfanyl-piperidine-1-carboxylic acid tert-butyl ester (1.80 g). To a solution of 4-acetylsulfanyl-piperidine-1-carboxylic acid tert-butyl ester (607 mg) in dry MeOH (5 mL) was added a solution of sodium methoxide in MeOH (25% wt, 0.59 mL). After stirring for 15 min, toluene-4-sulfonic acid 3-methoxy-propyl ester (described elsewhere, 571 mg) was added in MeOH. After 24 h, the reaction mixture was diluted with water, extracted with ethyl acetate, dried (MgSO4), filtered and concentrated in vacuo to yield 4-(3-methoxy-propylsulfanyl)-piperidine-1-carboxylic acid tert-butyl ester. Treatment with mCPBA (as described above) yielded 4-(3-methoxy-propane-1-sulfonyl)-piperidine-1-carboxylic acid tert-butyl ester. Treatment of this compound with HCl in DCM/MeOH yielded the desired amine, isolated as the hydrochloride salt.

reactant | 4-methanesulfonyloxy-piperidine-1-carboxylic acid tert-butyl ester | 2.82 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OS(=O)(=O)C | C11H21NO5S
reactant | potassium thioacetate | 2.31 g | C(C)(=S)[O-].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-acetylsulfanyl-piperidine-1-carboxylic acid tert-butyl ester | 1.80 g | C(C)(C)(C)OC(=O)N1CCC(CC1)SC(C)=O | C12H21NO3S
